US07534791B2
Synthesis of 3-bromo-benzo[b]furan (Method 22.)
Bromine (13.1 mL, 250 mmol) dissolved in chloroform (50 mL) is added dropwise to a solution of benzo[b]furan (25 g, 210 mmol) in chloroform (200 mL) at −10° C. over 20 minutes. The mixture is then stirred at 0° C. for 1 hour and the volatiles are evaporated. The residue is stirred with ethanol (50 mL) and then filtered. The solid material is washed with diethyl ether (100 mL) on the filter. This furnishes 23.0 g (39%) of 2,3-dibromo-2,3-dihydro-benzo[b]furan as white crystalline material. Potassium hydroxide pellets (9.3 g, 165 mmol) are dissolved in ethanol (40 mL) and cooled to 0° C. 2,3-Dibromo-2,3-dihydro-benzo[b]furan (23.0 g, 82.7 mmol) dissolved in ethanol (90 mL) is added dropwise hereto at a constant temperature of 0° C. After complete addition the mixture is heated to reflux for 2 hours. The mixture is concentrated in vacuo and water (100 mL) is added. The aqueous layer is extracted with ethyl acetate (3×100 mL). The combined organic fractions are washed with brine (100 mL), dried (MgSO4) and concentrated to furnish 14.7g (90%) of the wanted product as an oil.

reactant | Bromine | 250 mmol, 13.1 mL | BrBr | Br2
reactant | benzo[b]furan | 210 mmol, 25 g | O1C2=C(C=C1)C=CC=C2 | C8H6O
reactant | 2,3-Dibromo-2,3-dihydro-benzo[b]furan | 82.7 mmol, 23.0 g | BrC1C(C2=C(O1)C=CC=C2)Br | C8H6Br2O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 3-bromo-benzo[b]furan | 14.7g, 90% | BrC=1C2=C(OC1)C=CC=C2 | C8H5BrO
